US09216173B2
To a solution of tert-butyl {6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}carbamate (103 mg, 0.337 mmol) in dichloromethane (3 mL) was added trifluoroacetic acid (1.2 mL, 16 mmol) at room temperature. After 3 hours, the reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium carbonate was added to adjust to pH˜9. The mixture was then extracted with ethyl acetate (3×) and the combined organics were dried over magnesium sulfate, filtered, and concentrated to afford 6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-amine that was used without further purification. MS ESI calc'd for C11H19N4 [M+H]+ 207. found 207. 1H NMR (500 MHz, CD3OD) δ 7.46-7.40 (m, 1H), 6.66 (d, J=7.2 Hz, 1H), 6.47 (d, J=8.3 Hz, 1H), 3.47 (s, 2H), 2.85-2.46 (m, 8H), 2.39 (s, 3H).

reactant | tert-butyl {6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-yl}carbamate | 0.337 mmol, 103 mg | CN1CCN(CC1)CC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C16H26N4O2
reactant | trifluoroacetic acid | 16 mmol, 1.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-[(4-methylpiperazin-1-yl)methyl]pyridin-2-amine | CN1CCN(CC1)CC1=CC=CC(=N1)N | C11H18N4
